US07109186B2
Compound 13; 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide
To 0.5 mL of AcOH at 60° C. was added N-(2-aminoethyl)morpholine (0.066 mL, 0.5 mmol) and paraformaldehyde (15 mg, 0.5 mmol). After stirring for 5 min, 3-[(3,4-dichloro-benzyl)-methyl-carbamoyl]-2-hydroxy-acrylic acid methyl ester (159 mg, 0.5 mmol) was added and the resulting mixture stirred at 60° C. for 2 h. The reaction mixture was cooled to room temperature and extracted with EtOAc. The remaining aqueous layer was extracted with CH2Cl2, and dried over Na2SO4. Concentration yielded 51.1 mg (24% yield) of the title compound as a white solid. 1H NMR (300 MHz, CDCl3) δ: 10.52 (bs, 1H), 7.40 (d, 1H, J=10.61), 7.39 (s, 1H), 7.11 (dd, 1H, J=10.24, J=1.83), 4.60 (s, 2H), 4.23 (s, 2H), 3.64 (m, 6H), 3.01 (s, 3H), 2.63 (t, 2H, J=6.22), 2.54, (m, 4H), 2.05 (s, 3H). MS (M+H) calcd for C19H23N3O4Cl2: 427.1; found: 428.11.

reactant | N-(2-aminoethyl)morpholine | 0.5 mmol, 0.066 mL | NCCN1CCOCC1 | C6H14N2O
reactant | paraformaldehyde | 0.5 mmol, 15 mg | C=O | CH2O
reactant | 3-[(3,4-dichloro-benzyl)-methyl-carbamoyl]-2-hydroxy-acrylic acid methyl ester | 0.5 mmol, 159 mg | COC(C(=CC(N(C)CC1=CC(=C(C=C1)Cl)Cl)=O)O)=O | C13H13Cl2NO4
solvent | AcOH | 0.5 mL | CC(=O)O | C2H4O2
product | 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | 51.1 mg, 24% yield | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCOCC2)C)C=CC1Cl | C19H23Cl2N3O4
